US04797471
(f) 2,3-dibenzyloxybenzaldehyde
13.8 g of 2,3-dihydroxybenzaldehyde, 30.4 g of benzyl chloride and 17.3 g of powdered anhydrous potassium carbonate in 160 ml of anhydrous ethanol are boiled under reflux with exclusion of moisture for 6 hours. The reaction solution is filtered, washing with ethanol, and the filtrate is evaporated in vacuo. On digestion of the residue with diisopropyl ether the known desired compound crystallizes and as white needles (M.p. 89°-91° C.).

reactant | 2,3-dihydroxybenzaldehyde | 13.8 g | OC1=C(C=O)C=CC=C1O | C7H6O3
reactant | benzyl chloride | 30.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 17.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 2,3-dibenzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1OCC1=CC=CC=C1 | C21H18O3
